US07799822B2
(R)-4-(4-(2-(4-Fluoro-1H-indol-1-yl)propanoyl)piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide
Synthesized according to general procedure 5, method A. The reaction was set up with 0.08 mmol 4-(piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide, 0.08 mmol (2R)-2-(4-fluoro-indol-1-yl)-propionic acid, 0.08 mmol BOP reagent, 0.08 mmol triethylamine and 200 μL DMF. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=514.50; tR=3.03 min.

reactant | 4-(piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | 0.08 mmol | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C13H16N4O2S2
reactant | (2R)-2-(4-fluoro-indol-1-yl)-propionic acid | 0.08 mmol | FC1=C2C=CN(C2=CC=C1)[C@@H](C(=O)O)C | C11H10FNO2
reactant | BOP reagent | 0.08 mmol | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.08 mmol | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | (R)-4-(4-(2-(4-Fluoro-1H-indol-1-yl)propanoyl)piperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | FC1=C2C=CN(C2=CC=C1)[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)C | C24H24FN5O3S2
